US07067658B2
Trifluoro-methanesulfonic acid 4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl-ester (0.78 g, 1.98 mmol), prepared substantially as described in Part C of Example 67a, and 1-methoxymethyl-propylamine (0.45 g, 4.36 mmol) were treated substantially as described in Part C of Example 67a to produce 27 mg (40%) of [4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine; MS (EI) m/z 346.33 [(M+H)+, 100].

reactant | Trifluoro-methanesulfonic acid 4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl-ester | 1.98 mmol, 0.78 g | COC1=CC(=C(C=C1)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C | C14H11F3N2O6S
reactant | 1-methoxymethyl-propylamine | 4.36 mmol, 0.45 g | COCC(CC)N | C5H13NO
product | [4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 27 mg, 40% | COC1=CC(=C(C=C1)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-])C | C18H23N3O4
